US07932270B2
To NaH (128 mg, 3.21 mmol) in DMF (5.0 mL) was added (R)-5-(azidomethyl)pyrrolidin-2-one (300 mg, 2.14 mmol) in DMF (5.0 mL) and stirred at rt for 30 min followed by addition of tert-butyl 3-bromopropylcarbamate. The mixture was heated to 60° C. for 2 h and quenched with sat. NH4Cl solution. The aqueous layer was extracted with EtOAc (50 mL×2) and the combined organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give (R)-tert-butyl 3-(2-(azidomethyl)-5-oxopyrrolidin-1-yl)propylcarbamate (358 mg of crude), which was used for next step without purification. LRMS (M+H+-Boc) m/z 198.1.

reactant | NaH | 3.21 mmol, 128 mg | [H-].[Na+]
reactant | (R)-5-(azidomethyl)pyrrolidin-2-one | 2.14 mmol, 300 mg | N(=[N+]=[N-])C[C@H]1CCC(N1)=O | C5H8N4O
reactant | tert-butyl 3-bromopropylcarbamate | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 3-(2-(azidomethyl)-5-oxopyrrolidin-1-yl)propylcarbamate | 358 mg | N(=[N+]=[N-])C[C@@H]1N(C(CC1)=O)CCCNC(OC(C)(C)C)=O | C13H23N5O3
